US07947683B2
N,N′-dimethyl-5-hexen imidamide hydrochloride
To a solution of methyl 5-hexenimidoate hydrochloride (4.63 g, 28 mmol, Prep. 1) in MeOH (20 ml) was added methylamine 8M in EtOH (142 mmol). The solution was heated to reflux for 6 h and stirred overnight at r.t. Volatiles were evaporated in vacuo to give 4.4 g of the title compound as pale yellow oil, which was used without further purification.

reactant | methyl 5-hexenimidoate hydrochloride | 28 mmol, 4.63 g | Cl.C(CCCC=C)(OC)=N
reactant | methylamine | 8M | CN | CH5N
reactant | EtOH | 142 mmol | CCO | C2H6O
solvent | MeOH | 20 ml | CO | CH4O
product | N,N′-dimethyl-5-hexen imidamide hydrochloride | 4.4 g | Cl.CNC(CCCC=C)=NC | InChI=1S/C8H16N2.ClH/c1-4-5-6-7-8(9-2)10-3;/h4H,1,5-7H2,2-3H3,(H,9,10);1H
